US04997986
2-[4-[(6-Bromohexyl)oxy]butoxy]naphthalene
A mixture of 4-[(2-naphthalenyl)oxy]butanol (2.4 g), 1.6-dibromohexane (5.3 ml), TAB (1 g) and 50% sodium hydroxide solution (24 ml) was stirred at room temperature for 19 h. The mixture was diluted with water (100 ml) and extracted with ether (2×150 ml). The combined organic fractions were dried and evaporated in vacuo to give an oil. Purification by FCC eluting with hexane followed by hexane-ether (19:1→8:1) gave the title compound as a colourless oil, (2.34 g), t.l.c. (ether-hexane 1:1) Rf 0.85.

reactant | 4-[(2-naphthalenyl)oxy]butanol | 2.4 g | C1=C(C=CC2=CC=CC=C12)OCCCCO | C14H16O2
reactant | 1.6-dibromohexane | 5.3 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 24 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 2-[4-[(6-Bromohexyl)oxy]butoxy]naphthalene | 2.34 g | BrCCCCCCOCCCCOC1=CC2=CC=CC=C2C=C1 | C20H27BrO2
